US08378102B2
Diethyl ethoxymethylenemalonate (677 g, 3.13 moles (mol)) was added to 3-bromoaniline (491 g, 2.85 mol) over a period of one hour, the temperature rose to 60° C. during the addition. The reaction was then heated at 115° C. for 30 minutes, 125° C. for 30 minutes, and 140° C. for 15 minutes while ethanol was distilled from the reaction. The reaction temperature was adjusted to 130° C., and the reaction mixture was added over a period of 45 minutes to heated DOWTHERM A heat transfer fluid (5 liters (L), 250° C.) while maintaining the temperature of the heat transfer fluid between 242° C. and 250° C. A precipitate formed at the end of the addition. The reaction mixture was heated at about 250° C. for one hour and then cooled to 80° C. Concentrated hydrochloric acid (500 mL) was added, and the reaction mixture was heated at 110° C. for five hours, 125° C. for two hours, and 150° C. for an addition two hours, and then allowed to cool to room temperature overnight. The mixture was then heated to 200° C. over a period of two hours, further heated to 250° C., maintained at 250° C. for one hour, and allowed to cool to room temperature. A precipitate was present and was isolated by filtration, washed sequentially with heptane (2 L), ethanol (1 L), and diethyl ether (1 L) to provide 604 g of 7-bromo quinolin-4-ol as a dark red solid.

reactant | Diethyl ethoxymethylenemalonate | 3.13 moles, 677 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 3-bromoaniline | 2.85 mol, 491 g | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | hydrochloric acid | 500 mL | Cl | ClH
product | 7-bromo quinolin-4-ol | 604 g | BrC1=CC=C2C(=CC=NC2=C1)O | C9H6BrNO
